US06255276B1
98 g of crude 6-methylpentadec-5-enoic acid acid (from the proceeding Example) were dissolved in 305 ml of methanol, treated with 2 ml of sulphuric acid and heated to reflux temperature 2 hours. Then, the mixture was poured into water, made basic with saturated potassium bicarbonate solution, extracted twice with t-butyl methyl ether, concentrated and distilled in a high vacuum (0.1 Torr, 162-170° C.). 75 g (85%) of methyl 6-methylpentadec-5-enoate were obtained having the following characteristics: Z/E=56/46;

reactant | 6-methylpentadec-5-enoic acid | 98 g | CC(=CCCCC(=O)O)CCCCCCCCC | C16H30O2
reactant | sulphuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
solvent | methanol | 305 ml | CO | CH4O
product | methyl 6-methylpentadec-5-enoate | 75 g, 85% | CC(=CCCCC(=O)OC)CCCCCCCCC | C17H32O2
